US09085555B2
C. (2S,3S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-(9H-fluoren-9-ylmethoxy carbonylamino)-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (2S,3R,4R)-4-azido-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (440 mg, 1.16 mmol) in methanol (3 mL) was hydrogenated with palladium on carbon 10% (124 mg, 1.16 mmol) overnight. The reaction mixture was filtered over a glass fiber filter, washed with methanol and evaporated in vacuo. The residue was dissolved in THF (2 mL) and a 10% aqueous Na2CO3 (3.09 mL, 1.11 mmol) solution was added. The reaction mixture was cooled at 0° C. then FmocOSu dissolved in THF (7 mL) was added and stirred for 2 h at RT. The reaction mixture was concentrated in vacuo to leave a residue which was dissolved in EtOAc (10 mL) and treated with saturated aq. NH4Cl solution. The mixture was extracted with EtOAc (3×20 mL) and the organic layers were collected, dried over MgSO4, filtered and concentrated. The residue was dissolved in DMF (3 mL) then 3-chloro-2-fluoro benzylamine (267 mg, 1.67 mmol) and HBTU (526 mg, 1.38 mmol), DIPEA (292 μl, 1.67 mmol) were added. The resulting orange solution was stirred overnight at RT. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 3:2) afforded the title compound. MS (UPLC/MS): 624/626 [M+H]+, 668/670 [M+HCOO]−; tR (HPLC conditions f): 2.65 min.

reactant | (2S,3R,4R)-4-azido-3-methoxy-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 1.16 mmol, 440 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]([C@@H](C1)N=[N+]=[N-])OC)C(=O)OCC1=CC=CC=C1 | C18H24N4O5
reactant | Na2CO3 | 1.11 mmol, 3.09 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | FmocOSu | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | NH4Cl | [NH4+].[Cl-]
reactant | 3-chloro-2-fluoro benzylamine | 1.67 mmol, 267 mg | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 1.38 mmol, 526 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.67 mmol, 292 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium on carbon | 1.16 mmol, 124 mg | [Pd] | Pd
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (2S,3S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-(9H-fluoren-9-ylmethoxy carbonylamino)-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]([C@@H](C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)OC)C(NCC1=C(C(=CC=C1)Cl)F)=O | C33H35ClFN3O6
